US06525074B2
Step B: Preparation of (+)-4-[1-amino-1-(3-(4-fluoro-phenyl)-3H-imidazol-4-yl)-ethyl]-2-fluoro-benzonitrile bishydrochloride
N-[(4-Cyano-3-fluoro-phenyl)-(3-(4-fluorophenyl)-3H-imidazol-4-yl)-methylene]-2-methylpropanesulfinamide (2.217 g, 5.17 mmol) was dissolved in MeOH (20 mL) and 4M HCl in dioxane (10 mL) with stirring at ambient temperature. After 1 h the reaction mixture was concentrated in vacuo, made basic with NaHCO3 solution, extracted with CH2Cl2 (3×20 mL), the organics combined, dried (Na2SO4), filtered, and concentrated to give the title compound as a mixture of enantiomers.

reactant | N-[(4-Cyano-3-fluoro-phenyl)-(3-(4-fluorophenyl)-3H-imidazol-4-yl)-methylene]-2-methylpropanesulfinamide | 5.17 mmol, 2.217 g | C(#N)C1=C(C=C(C=C1)C(=NS(=O)CC(C)C)C=1N(C=NC1)C1=CC=C(C=C1)F)F | C21H18F2N4OS
reactant | HCl | 4M | Cl | ClH
reactant | MeOH | 20 mL | CO | CH4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (+)-4-[1-amino-1-(3-(4-fluoro-phenyl)-3H-imidazol-4-yl)-ethyl]-2-fluoro-benzonitrile bishydrochloride | Cl.Cl.NC(C)(C=1N(C=NC1)C1=CC=C(C=C1)F)C1=CC(=C(C#N)C=C1)F | InChI=1S/C18H14F2N4.2ClH/c1-18(22,13-3-2-12(9-21)16(20)8-13)17-10-23-11-24(17)15-6-4-14(19)5-7-15;;/h2-8,10-11H,22H2,1H3;2*1H
